US08293781B2
5-bromo-2-methyl-1-phenyl-1H-indole
The same reaction was performed as in Reference Example 1 except for using, instead of the 5-bromoindole, 5-bromo-2-methylindole to afford the above-identified compound (4.2 g).

reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 5-bromo-2-methylindole | BrC=1C=C2C=C(NC2=CC1)C | C9H8BrN
product | 5-bromo-2-methyl-1-phenyl-1H-indole | 4.2 g | BrC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C | C15H12BrN
